US07414061B2
4-(1-Benzyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole
A solution of 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (100 mg, 0.44 mmol) in DMF (2 mL) was added over 10 min to a suspension of NaH (20 mg, 0.47 mmol) in DMF (1 mL) at room temperature and after 30 min benzyl bromide (83.5 mg, 0.49 mmol) was added. After 2 h at room temperature, the mixture was poured into aqueous acetic acid (10%) and extracted with ethyl acetate. The organic extracts were then washed with water and brine, and then dried over sodium sulphate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=1:1) afforded the title compound (88 mg, 63%) which was obtained as a colourless gum. MS: m/e=316.1 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.44 mmol, 100 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | NaH | 0.47 mmol, 20 mg | [H-].[Na+]
reactant | benzyl bromide | 0.49 mmol, 83.5 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(1-Benzyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 88 mg, 63% | C(C1=CC=CC=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C20H17N3O
